US04333942
(b) 4-Benzyl-1-methyl-4-phenoxypiperidine
[as the hydrochloride of m.p. 197° to 198° C. (from ethanol)] from 4-(4-aminophenoxy)-4-benzyl-1-methylpiperidine.

reactant | hydrochloride | Cl | ClH
reactant | 4-(4-aminophenoxy)-4-benzyl-1-methylpiperidine | NC1=CC=C(OC2(CCN(CC2)C)CC2=CC=CC=C2)C=C1 | C19H24N2O
solvent | ethanol | C(C)O | C2H6O
product | 4-Benzyl-1-methyl-4-phenoxypiperidine | C(C1=CC=CC=C1)C1(CCN(CC1)C)OC1=CC=CC=C1 | C19H23NO
